US07994185B2
Step A: N-(3-{2-(1,1-Dimethylethyl)-5-[2-(tetrahydro-2H-thiopyran-4-ylamino)-4-pyrimidinyl]-1,3-thiazol-4-yl}-2-fluorophenyl)-2,6-difluorobenzenesulfonamide
Following a procedure analogous to the procedure described in Example 1 using N-{3-[5-(2-chloro-4-pyrimidinyl)-2-(1,1-dimethylethyl)-1,3-thiazol-4-yl]-2-fluorophenyl}-2,6-difluorobenzenesulfonamide (100 mg, 0.186 mmol) and tetrahydro-2H-thiopyran-4-amine (100 mg, 0.853 mmol) the title compound was obtained as a crude yellow foam and used directly in the next step. MS (ESI): 620.2 [M+H]+.

reactant | N-{3-[5-(2-chloro-4-pyrimidinyl)-2-(1,1-dimethylethyl)-1,3-thiazol-4-yl]-2-fluorophenyl}-2,6-difluorobenzenesulfonamide | 0.186 mmol, 100 mg | ClC1=NC=CC(=N1)C1=C(N=C(S1)C(C)(C)C)C=1C(=C(C=CC1)NS(=O)(=O)C1=C(C=CC=C1F)F)F | C23H18ClF3N4O2S2
reactant | tetrahydro-2H-thiopyran-4-amine | 0.853 mmol, 100 mg | S1CCC(CC1)N | C5H11NS
product | N-(3-{2-(1,1-Dimethylethyl)-5-[2-(tetrahydro-2H-thiopyran-4-ylamino)-4-pyrimidinyl]-1,3-thiazol-4-yl}-2-fluorophenyl)-2,6-difluorobenzenesulfonamide | CC(C)(C)C=1SC(=C(N1)C=1C(=C(C=CC1)NS(=O)(=O)C1=C(C=CC=C1F)F)F)C1=NC(=NC=C1)NC1CCSCC1 | C28H28F3N5O2S3
